US08975254B2
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (741 mg, 2.82 mmol) and 2-bromooxazole-4-carboxylic acid (850 mg, 3.41 mmol). The product was purified by Flash-chromatography. Yield 12.4%. 1H-NMR (400 MHz; CDCl3): δ 1.20 (d, 3H), 4.18-4.47 (m, 2H), 4.51-4.65 (m, 1H), 6.64 (d, 1H), 7.48 (d, 1H), 7.72 (dd, 1H), 7.92-7.99 (m, 3H), 8.21 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 2.82 mmol, 741 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-bromooxazole-4-carboxylic acid | 3.41 mmol, 850 mg | BrC=1OC=C(N1)C(=O)O | C4H2BrNO3
product | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | Yield 12.4% | BrC=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H13BrClN5O2
